US09302989B2
N-[2-fluoro-4-(1-propyl-1H-pyrazol-4-yl)phenyl]-1,3-dihydro-2H-isoindole-2-carboxamide
The title compound was prepared as described in Example 280, substituting 1-propyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole for 1H-pyrazol-3-ylboronic acid and N-(4-bromo-2-fluorophenyl)isoindoline-2-carboxamide for 5-bromo-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide. 1H NMR (300 MHz, DMSO-d6) δ ppm 8.19 (s, 1H), 8.03 (s, 1H), 7.89 (s, 1H), 7.57 (t, J=8.4 Hz, 1H), 7.46 (dd, J=12.1, 1.9 Hz, 1H), 7.24-7.39 (m, 5H), 4.76-4.78 (bs, 4H), 4.06 (t, J=6.9 Hz, 2H), 1.75-1.88 (m, 2H), 0.86 (t, J=7.3 Hz, 3H); MS (ESI(+)) m/e 365 (M+H)+.

reactant | 1H-pyrazol-3-ylboronic acid | N1N=C(C=C1)B(O)O | C3H5BN2O2
reactant | N-(4-bromo-2-fluorophenyl)isoindoline-2-carboxamide | BrC1=CC(=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1)F | C15H12BrFN2O
reactant | 5-bromo-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide | BrC=1C=C2CN(CC2=CC1)C(=O)NC1=CC=C(C=C1)C(NCCC)=O | C19H20BrN3O2
product | N-[2-fluoro-4-(1-propyl-1H-pyrazol-4-yl)phenyl]-1,3-dihydro-2H-isoindole-2-carboxamide | FC1=C(C=CC(=C1)C=1C=NN(C1)CCC)NC(=O)N1CC2=CC=CC=C2C1 | C21H21FN4O
